US06583157B2
2,4-Dichloro-benzothiazole (255)
Anhydrous CuCl2 (Aldrich, 4.37 g, 32.5 mmol), t-butyl nitrite (Aldrich, 4.83 mL, 40.6 mmol) and anhydrous acetonitrile (EM, 50 mL) were added to a 3-necked round-bottomed flask equipped with a reflux condenser, an additional funnel and a gas outlet tube. The mixture was warmed to 65° C. and a suspension of 2-amino-4-chlorobenzothiazole in 50 mL of acetonitrile. During the addition, the reaction mixture tuned to black and gas evolved. After gas evolution is complete, the reaction was allowed to reach room temperature. The reaction mixture was poured to 300 mL of 20% aqueous HCl, extracted 3× with EtOAc (400 mL). The organic layers were washed twice with a brine solution (300 mL), dried over Na2SO4 and concentrated. The residue was purified by chromatography with 60% CH2Cl2/hexanes to give 4.8 g of product.

reactant | t-butyl nitrite | 40.6 mmol, 4.83 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-4-chlorobenzothiazole | NC=1SC2=C(N1)C(=CC=C2)Cl | C7H5ClN2S
reactant | HCl | 300 mL | Cl | ClH
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2,4-Dichloro-benzothiazole | 4.8 g | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
